US05801183
N-(Cyanoacetyl)-4,5-dichloro-2-nitroaniline (142)
To a suspension of cyanoacetic acid (1.70 g, 20 mmol) in CH2Cl2 (50 mL) oxalyl chloride (2.2 mL, 25 mmol) was added. The mixture was stirred for 2 h, more oxalyl chloride (2.2 mL, 25 mmol) was added and the mixture was refluxed while stirring for 3 h. The mixture was cooled to room temperature and evaporated twice with ethanol-free CHCl3 (20 mL) to remove excess of (COCl)2. To the residue was added 4,5-dichloro-2-nitroaniline (1.035 g, 5 mmol) and CH2Cl2 (10 mL) and the resulting mixture was stirred for 3 h, then diluted with ether (50 mL). The precipitate was filtered, washed with ether (5×10 mL) to give 0.891 g (65%) of the title compound as an orange solid: mp 156°-158° C. (from EtOH); IR (KBr) 3369, 3118, 2928, 2261, 1694, 1609, 1576, 1498, 1346 and 1280 cm-1 ; 1H NMR (DMSO-d6) δ4.00 (s, 2H), 7.94 (s, 1H), 8.31 (s, 1H), 10.70 (s, 1H, N--H). HRMS Calcd for C9H5N3O3Cl2 : 272.9708. Found: 272.9712.

reactant | cyanoacetic acid | 20 mmol, 1.70 g | C(#N)CC(=O)O | C3H3NO2
reactant | CH2Cl2 | 25 mmol, 50 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 25 mmol, 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,5-dichloro-2-nitroaniline | 5 mmol, 1.035 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | N-(Cyanoacetyl)-4,5-dichloro-2-nitroaniline | 0.891 g, 65% | C(#N)CC(=O)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C9H5Cl2N3O3
